US07307084B2
AU. N-(7-Benzyloxy-2,3-dimethyl-3H-benzimidazol-5-yl)-N-methyl-acetamide
To a suspension of 5.8 g (18.8 mmol) N-(7-benzyloxy-2,3-dimethy-3H-benzimidazol-5-yl)-acetamide in tetrahydrofuran (200 ml) were added 1.3 ml (20.5 mmol) methyl iodide and 0.74 g (20.5 mmol) sodium hydride (60%) in portions. The reaction was stirred at room temperature for 1 h and then poured into water (100 ml) and extracted with ethyl acetate (4×50 ml). The organic layers were dried over magnesium sulphate and concentrated in vacuo. The residue afforded 6.0 g (99%) of the title compound as ochre solid. m.p. 144°-149° C.

reactant | N-(7-benzyloxy-2,3-dimethy-3H-benzimidazol-5-yl)-acetamide | 18.8 mmol, 5.8 g | C(C1=CC=CC=C1)OC1=CC(=CC2=C1N=C(N2C)C)NC(C)=O | C18H19N3O2
reactant | methyl iodide | 20.5 mmol, 1.3 ml | CI | CH3I
reactant | sodium hydride | 20.5 mmol, 0.74 g | [H-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-(7-Benzyloxy-2,3-dimethyl-3H-benzimidazol-5-yl)-N-methyl-acetamide | 6.0 g, 99% | C(C1=CC=CC=C1)OC1=CC(=CC2=C1N=C(N2C)C)N(C(C)=O)C | C19H21N3O2
